US05441955
1-Methylindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting 6-methylisatoic anhydride for 5-chloroisatoic anhydride and isatin for 5-fluoroisatin gave the title compound in 31% yield: mp 304°-307° C.; 1H NMR (300 MHz, CDCl3) δ 8.65 (d, 1H), 7.9 (t, 1H), 7.9 (t, 1H), 7.88 (t, 1H), 7.78 (t, 1H), 7.68 (t, 1H), 7.42 (dt, 1H), 7.41 (t, 1H), 3.0 (s, 3H); MS (M+H)+ 263.1, (M+CH4CN)+ 304.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 1-Methylindolo[2,1-b]quinazoline-6,12-dione | 31% yield | CC1=C2C(N3C(=NC2=CC=C1)C(C1=CC=CC=C13)=O)=O | C16H10N2O2
